US04367238
A solution of ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetate (3.2 g) in dimethylformamide (10 ml) was added dropwise to a mixture of sodium hydride (65%, 330 mg) and dimethylformamide (20 ml) in 10 minutes at temperature below 10° C. After stirring the mixture at the same temperature for 20 minutes, methyl iodide (2.5 g) was added to the mixture. The mixture was stirred at the same temperature for 15 minutes and then at room temperature for 20 minutes. The reaction mixture was poured into water and extracted with diethyl ether. The extract was washed with water, dried and then evaporated under reduced pressure to give oily ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenylthio)phenyl]propionate (3.4 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetate | 3.2 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)SC1=C(C=CC=C1)Cl)OC | C18H16ClNO3S
reactant | sodium hydride | 330 mg | [H-].[Na+]
reactant | methyl iodide | 2.5 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenylthio)phenyl]propionate | 3.4 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)SC1=C(C=CC=C1)Cl)OC | C19H18ClNO3S
